US08293909B2
6-(2-Methoxyphenyl)-N-methyl-2-phenylpyrazolo[1,5-a]pyridine-3-carboxamide.
To a microwave vial equipped with a magnetic stir bar was charged 2-methoxyphenylboronic acid (12.09 mg, 0.080 mmol), 6-iodo-N-methyl-2-phenylpyrazolo[1,5-a]pyridine-3-carboxamide (15 mg, 0.040 mmol), sodium carbonate (7.38 mg, 0.070 mmol), palladium(II) acetate (0.893 mg, 3.98 μmol) and dimethylforamide (1.0 mL). This mixture was placed under an argon atmosphere and heated at 150° C. for 10 minutes. The title compound (5.7 mg, 36%) was isolated by reverse phase HPLC: Start % B=30 to Final % B=80, Gradient time=10 minutes, Flow Rate=35 mL/minute, Wavelength=220 nm, Solvent A=10% methanol, 90% water with 0.1% TFA; Solvent B=90% methanol, 10% water with 0.1% TFA, Column=Phenomenex-Luna 30×50 mm S10, Product peak at 7.6 minutes. 1H NMR (500 MHz, CHLOROFORM-D) δ ppm 2.85 (d, J=4.88 Hz, 3H) 3.86 (s, 3H) 7.03 (d, J=7.93 Hz, 1H) 7.08 (t, J=7.02 Hz, 1H) 7.39 (m, 2H) 7.54 (m, 3H) 7.63 (dd, J=9.16, 1.53 Hz, 1H) 7.69 (m, 1H) 8.36 (dd, J=9.16, 0.61 Hz, 1H) 8.76 (m, 1H). LCMS: 2.0 minutes, M+1=358.

reactant | 2-methoxyphenylboronic acid | 0.080 mmol, 12.09 mg | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | 6-iodo-N-methyl-2-phenylpyrazolo[1,5-a]pyridine-3-carboxamide | 0.040 mmol, 15 mg | IC=1C=CC=2N(C1)N=C(C2C(=O)NC)C2=CC=CC=C2 | C15H12IN3O
reactant | sodium carbonate | 0.070 mmol, 7.38 mg | C([O-])([O-])=O.[Na+].[Na+]
catalyst | palladium(II) acetate | 3.98 μmol, 0.893 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | dimethylforamide | 1.0 mL | CN(C=O)C | C3H7NO
product | 6-(2-Methoxyphenyl)-N-methyl-2-phenylpyrazolo[1,5-a]pyridine-3-carboxamide | 5.7 mg, 36% | COC1=C(C=CC=C1)C=1C=CC=2N(C1)N=C(C2C(=O)NC)C2=CC=CC=C2 | C22H19N3O2
